US06552036B2
A 100 mL dry THF slurry of 18.6 g (284 mmol) zinc powder and 15.6 mL (142 mmol) TiCl4 was stirred and allowed to reflux for 2 h under Ar. The reaction was allowed to cool then a 20 mL THF solution of 10 g (35.5 mmol) N,N-diethyl-4-benzoylbenzamide and 5 g (35.5 mmol) tropinone was added slowly. Once the addition was complete, the reaction was allowed to reflux for 3 h, cooled, then quenched with 10% K2CO3 in H2O. The resulting slurry was partitioned between water and Et2O. The organic fraction was washed with brine, dried over MgSO4, filtered, and concentrated. The remaining yellow oil was absorbed onto silica gel then purified by flash chromatography eluted with 10% 0.5 M NH3 in MeOH 90% CH2Cl2 to produce the product N,N-diethyl-4-[(8-methyl-8-azabicyclo[3.2.1]oct-3-ylidene)phenyl methyl] benzamide (4.27 g, 11 mmol). The HCl salt was precipitated from Et2O after the addition of ethereal HCl; mp 145-147° C. MS m/z (MH+) 389. 1H NMR 300 MHz (DMSO-d6) δ 7.2-7.45 (m, 9H), 3.8-3.9 (m, 2H), 3.15-3.25 (m, 2H), 2.75-2.95 (m, 4H), 2.65 (s, 3H), 2.25-2.4 (m, 2H), 2.15-2.25 (m, 2H), 1.75-1.9 (m, 2H), 0.95-1.2 (m, 6H). Anal calc C26H32N2O.HCl (3% H2O): C, 71.21; H, 7.93; N, 6.39. Found: C, 71.16; H, 7.95; N, 6.27.

reactant | N,N-diethyl-4-benzoylbenzamide | 35.5 mmol, 10 g | C(C)N(C(C1=CC=C(C=C1)C(C1=CC=CC=C1)=O)=O)CC | C18H19NO2
reactant | tropinone | 35.5 mmol, 5 g | CN1C2CCC1CC(=O)C2 | C8H13NO
catalyst | zinc | 284 mmol, 18.6 g | [Zn] | Zn
catalyst | TiCl4 | 142 mmol, 15.6 mL | Cl[Ti](Cl)(Cl)Cl
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | N,N-diethyl-4-[(8-methyl-8-azabicyclo[3.2.1]oct-3-ylidene)phenyl methyl] benzamide | 11 mmol, 4.27 g | C(C)N(C(C1=CC=C(C=C1)C(C1=CC=CC=C1)=C1CC2CCC(C1)N2C)=O)CC | C26H32N2O
